US07368572B2
To a solution of methyl 4-(N-Boc-3-aminoprop-1-ynyl)benzoate (3.40 g, 11.7 mmol) in THF (25 ml) was added 4M HCl/dioxane (25 ml, 100 mmol). The reaction mixture was stirred for 1 h. The formed precipitate was collected, washed with diethyl ether (200 ml) and dried in vacuo providing methyl 4-(3-aminoprop-1-ynyl)benzoate hydrochloride (2.46 g) as white solid. Alternatively, the N-Boc protected amine can be dissolved in methanol instead of THF. In this case the solvent was removed in vacuo and the precipitate was washed with diethyl ether.

reactant | methyl 4-(N-Boc-3-aminoprop-1-ynyl)benzoate | 11.7 mmol, 3.40 g | C(=O)(OC(C)(C)C)NCC#CC1=CC=C(C(=O)OC)C=C1 | C16H19NO4
reactant | HCl dioxane | 100 mmol, 4M, 25 ml | Cl.O1CCOCC1
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | methyl 4-(3-aminoprop-1-ynyl)benzoate hydrochloride | 2.46 g | Cl.NCC#CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C11H11NO2.ClH/c1-14-11(13)10-6-4-9(5-7-10)3-2-8-12;/h4-7H,8,12H2,1H3;1H
